US07160887B1
A mixture of 1-(1-azido-1-methylethyl)-3-methoxybenzene (34.1 g, 178 mmols), Raney nickel (100 g) and ethanol (300 ml) was stirred at room temperature for 24 hours. The catalyst was removed through decantation, and the resulting supernatant was concentrated under reduced pressure. 1 N hydrochloric acid was added to the residue, which was then washed with diethyl ether. After neutralized, the aqueous layer was made alkaline with sodium hydroxide added thereto, and extracted with ethyl acetate. The extract was washed with brine, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure to give an oil of 1-(3-methoxyphenyl)-1-methylethylamine (17.9 g, 60%).

reactant | 1-(1-azido-1-methylethyl)-3-methoxybenzene | 178 mmols, 34.1 g | N(=[N+]=[N-])C(C)(C)C1=CC(=CC=C1)OC | C10H13N3O
catalyst | Raney nickel | 100 g | [Ni] | Ni
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(3-methoxyphenyl)-1-methylethylamine | 17.9 g, 60% | COC=1C=C(C=CC1)C(C)(C)N | C10H15NO
